US07541374B2
The mixture of 1.38 g of 3-t-butyl-1H-1,2,4-triazole1-ylmethanol and 2.7 ml of thionyl chloride was stirred under reflux condition for 3 hours. After the reaction mixture was cooled to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was recrystallized from hexane to obtain 1.72 g of 3-t-butyl-1-(chloromethyl)-1H-1,2,4-triazole hydrochloride. 1H-NMR (CDCl3, TMS, δ (ppm)): 1.36 (9H, s), 5.83 (2H, s), 8.17 (1H, s)

reactant | 3-t-butyl-1H-1,2,4-triazole1-ylmethanol | 1.38 g | C(C)(C)(C)C1=NN(C=N1)CO | C7H13N3O
reactant | thionyl chloride | 2.7 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-t-butyl-1-(chloromethyl)-1H-1,2,4-triazole hydrochloride | 1.72 g | Cl.C(C)(C)(C)C1=NN(C=N1)CCl | InChI=1S/C7H12ClN3.ClH/c1-7(2,3)6-9-5-11(4-8)10-6;/h5H,4H2,1-3H3;1H
